US05849732
A mixture of 25 g of tert-butoxycarbonyl hydrazine, 37 g of ethyl 6-bromohexanoate, 26 g of potassium carbonate and 40 ml of hexamethylphosphoramide (HMPA) was stirred at room temperature for 3.5 hours. Water was added to the mixture, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=3:1) to give 16 g of ethyl 6-(N'-tert-butoxycarbonylhydrazino)hexanoate (state: oily product, IR: 3350, 1740, 1720 cm-1).

reactant | tert-butoxycarbonyl hydrazine | 25 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | ethyl 6-bromohexanoate | 37 g | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | potassium carbonate | 26 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoramide | 40 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | Water | O | H2O
product | ethyl 6-(N'-tert-butoxycarbonylhydrazino)hexanoate | 16 g | C(C)(C)(C)OC(=O)NNCCCCCC(=O)OCC | C13H26N2O4
